US06699861B1
2-Chloromethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one
Anhydrous methanol (36 ml) was added into a 250 ml round-bottomed flask that contained sodium (0.081 g) under argon. To this stirred solution chloroacetonitrile (1.56 g, 20.7 mmol) was added and stirring was continued for 30 min at room temperature under argon. 5-Amino-6-carboxyindane (European Patent Application 0602851A1; 3.19 g, 18.0 mmol) was then added and the reaction mixture was diluted with more methanol (42 ml). After the reaction mixture being stirred for 1 hour at room temperature, more anhydrous methanol (25 ml) was added and stirring was continued for 1 hour at room temperature and then for a further 1 hour at 80° C. under argon. The reaction mixture was then allowed to cool to room temperature; the white precipitate was collected by filtration, washed with methanol, water and dried in vacuo over P2O5 (3.15 g, 75%), mp 270-272° C.; 1H-NMR (DMSO-d6) 2.07 (m, 2H, 7-CH2), 2.98 (m, 4H, 6-CH2 and 8-CH2), 4.52 (s, 2H, 2-CH2), 7.50 (s, 1H, 9-H), 7.93 (s, 1H, 5-H), 12.37, (s, 1H, N3—H). MS (FAB, m/z) 235 (M+H)+;

reactant | sodium | 0.081 g | [Na] | Na
reactant | chloroacetonitrile | 20.7 mmol, 1.56 g | ClCC#N | C2H2ClN
reactant | 5-Amino-6-carboxyindane | 18.0 mmol, 3.19 g | NC=1C=C2CCCC2=CC1C(=O)O | C10H11NO2
solvent | methanol | 42 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 36 ml | CO | CH4O
product | 2-Chloromethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one | ClCC1=NC2=CC3=C(C=C2C(N1)=O)CCC3 | C12H11ClN2O
